US04314061
3,6-bis(2-diethylaminoethoxy)-4,5,-dichloro-2-nitroacridine
A 119.5 mg. portion of 3,6-bis(2-diethylaminoethoxy)-4,5-dichloroacridine is dissolved in one ml. of concentrated sulfuric acid. The solution is cooled in an ice bath and 60 mg. of potassium nitrate are added. The mixture is stirred at 0° C. for one hour, then at room temperature for 20 hours, poured into 20 ml. of ice water and the pH adjusted to 11.5 with 5 N sodium hydroxide. The mixture is then extracted three times with dichloromethane. The extracts are combined, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to a black gum. This gum is slurried in 25 ml. of boiling hexane and filtered. The filtrate is concentrated to 10 ml. and cooled in an ice bath. The crystals are collected and dried in vacuo, giving 54 mg. of the desired product, m.p. 100°-102° C.

reactant | 3,6-bis(2-diethylaminoethoxy)-4,5-dichloroacridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C(=C3N=C2C1Cl)Cl)OCCN(CC)CC)CC | C25H33Cl2N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
product | 3,6-bis(2-diethylaminoethoxy)-4,5,-dichloro-2-nitroacridine | C(C)N(CCOC=1C(=CC2=CC3=CC=C(C(=C3N=C2C1Cl)Cl)OCCN(CC)CC)[N+](=O)[O-])CC | C25H32Cl2N4O4
